US06159901
Production of 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (n-propylidene) hydrazide (compound No. I-2)
4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.5 g, 0.0015 mol) was mixed with propionaldehyde (0.27 g, 0.0015×3.1 mol), and further with a mixed solution of diethyl ether and chloroform and a small amount of concentrated hydrochloric acid. The resultant solution was heated and refluxed for about 8 hours. The obtained reaction solution was concentrated and then purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.0015 mol, 0.5 g | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O3
reactant | propionaldehyde | 3.1 mol, 0.27 g | C(CC)=O | C3H6O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (n-propylidene) hydrazide | C(CC)=NNC(C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F)=O | C17H16F3N3O3
